US06699879B1
8-Ethyl-2-methylquinoline-4-carboxylic Acid
8-Ethyl-2-methylquinoline-4-carboxylic acid ethyl ester (0.205 g) and 5N HCl combined and the solution boiled for 7 h. Solvent was removed at reduced pressure to give the title compound (0.195 g) as a yellow solid. m/z (API+): 216 (MH+), 214 (API−) 214(M-H).

reactant | 8-Ethyl-2-methylquinoline-4-carboxylic acid ethyl ester | 0.205 g | C(C)OC(=O)C1=CC(=NC2=C(C=CC=C12)CC)C | C15H17NO2
reactant | HCl | 5N | Cl | ClH
product | 8-Ethyl-2-methylquinoline-4-carboxylic Acid | 0.195 g | C(C)C=1C=CC=C2C(=CC(=NC12)C)C(=O)O | C13H13NO2
